US03940402
A 7.4-g (0.45 mole) sample of 1-bromohexane was added at ambient temperature to a stirred solution of 11.1 g (0.05 mole) of tris(dimethylamino)sulfonium thiocyanate in 25 ml acetonitrile, and the rate of the reaction was followed by gas-liquid partition chromatography (glc). The reaction was one-half completed after 3 hr, and was essentially completed after 20 hr. The reaction mixture was poured into water and extracted with ether. The ether extract was dried (MgSO4) and distilled to give 5.47 g (85%) of n-hexyl thiocyanate as a colorless liquid, bp 93°-94° (10 mm).

reactant | 1-bromohexane | BrCCCCCC | C6H13Br
reactant | tris(dimethylamino)sulfonium thiocyanate | 0.05 mole, 11.1 g | [S-]C#N.CN(C)[S+](N(C)C)N(C)C
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | n-hexyl thiocyanate | 5.47 g, 85% | C(CCCCC)SC#N | C7H13NS
